2200-08-19 02:54:00 Physician Attending Progress Note
Chief Complaint: liver failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43W history of EtOH and IVDA admitted yesterday with nausea, vomiting
   and found to be in liver and renal failure. Apparently has been
   drinking more than usual recently. Has also been taking excessive
   tylenol and vicodan. Ast found to be 21k and Alt 6k and TBili 4.7,
   creatinine 3.8. Tox screen positive for tylenol and salicylates and RUQ
   U/S unremarkable.
   n-AC started along with ativan and she was transferred. Currently
   sleepy, complaining of vague chest pain.
   24 Hour Events:
                                 History obtained from housestaff
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HepC
   EtOH abuse
   remote IVDA
   chronic back pain
   hepC positive
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: Conjunctival edema
   Gastrointestinal: Abdominal pain
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2200-8-19**] 02:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 104 (104 - 105) bpm
   BP: 158/97(112) {151/90(104) - 158/97(112)} mmHg
   RR: 19 (19 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                     75 mL
   Urine:
   75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.38/38/48/20/-1
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Tender: upper abdomen diffusely tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   152 K/uL
   137 mg/dL
   4.2 mg/dL
   20 mEq/L
   3.4 mEq/L
   37 mg/dL
   96 mEq/L
   133 mEq/L
   35.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2200-8-19**]  01:02 AM
                             [**2200-8-19**]  01:18 AM
   WBC
   6.8
   Hct
   35.6
   Plt
   152
   Cr
   4.2
   TCO2
   23
   Glucose
   137
   Other labs: PT / PTT / INR:32.6/37.3/3.3, CK / CKMB / Troponin-T:120//,
   ALT / AST:3998/pending, Alk Phos / T Bili:199/3.9, Amylase /
   Lipase:/97, Differential-Neuts:93.7 %, Lymph:5.4 %, Mono:0.7 %, Eos:0.1
   %, Lactic Acid:2.5 mmol/L, Albumin:3.3 g/dL, Ca++:6.9 mg/dL, Mg++:1.6
   mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: AG 17
   tylenol 18
   Hep serologies pending
   Imaging: CXR right hilar fullness, patchy infiltrates RLL
   ECG: ST 117, unremarkable
   Assessment and Plan
   Liver failure - likely related to tylenol, EtOH in setting of hepC.
   Will continue IV n-AC and follow labs. Discuss steroids for alcohol
   hepatitis with hepatology. Repeat RUQ U/S.
   Renal failure - likely realted to liver failure and NSAID use,
   supportive care, volume resuscitate
   Encephalopathy - likely related to liver failure, will scan head,
   follow for signs of EtOH withdrawal, continue thiamine + folate
   CXR abnormalities - repeat CXR later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-8-19**] 01:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2200-08-20 10:32:00 Physician Attending Progress Note
Chief Complaint: liver failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with chronic etoh use, presented with tylenol acute on chronic
   overdose with hepatic failure, and anuric renal failure possibly from
   ATN from NSAID/tylenol use:
   24 Hour Events:
 ULTRASOUND - At [**2200-8-19**] 10:00 AM
   Liver, gall bladder and kidneys.
 URINE CULTURE - At [**2200-8-19**] 12:00 PM
   -head ct unremarkable
   -abd u/s shows fatty liver only
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2200-8-19**] 05:30 PM
   Other medications:
   thiamine, fa, mvi, nac, albumin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-8-20**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 75 (71 - 105) bpm
   BP: 137/74(90) {113/63(76) - 157/131(135)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,519 mL
                                                                  1,224 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  4,119 mL
                                                                  1,224 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    288 mL
                                                                    170 mL
   Urine:
                                                                    288 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,231 mL
                                                                  1,054 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///14/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered rare)
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: mild,
   throughout
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   137 K/uL
   131 mg/dL
   5.8 mg/dL
   14 mEq/L
   4.2 mEq/L
   45 mg/dL
   98 mEq/L
   136 mEq/L
   30.2 %
   4.0 K/uL
        [image002.jpg]
                             [**2200-8-19**]  01:02 AM
                             [**2200-8-19**]  01:18 AM
                             [**2200-8-19**]  05:02 AM
                             [**2200-8-19**]  12:18 PM
                             [**2200-8-19**]  05:29 PM
                             [**2200-8-20**]  12:47 AM
                             [**2200-8-20**]  02:56 AM
   WBC
   6.8
   6.9
   4.3
   4.0
   3.3
   4.0
   Hct
   35.6
   35.0
   31.3
   29.5
   25.6
   30.2
   Plt
   152
   167
   154
   145
   137
   Cr
   4.2
   4.2
   4.9
   5.3
   4.6
   5.8
   TCO2
   23
   Glucose
   137
   86
   85
   98
   105
   131
   Other labs: PT / PTT / INR:19.4/31.7/1.8, CK / CKMB / Troponin-T:120//,
   ALT / AST:1764/1840, Alk Phos / T Bili:179/3.9, Amylase / Lipase:/97,
   Differential-Neuts:93.7 %, Lymph:5.4 %, Mono:0.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:638 IU/L, Ca++:8.2 mg/dL,
   Mg++:3.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   43F with chronic etoh use, presented with tylenol acute on chronic
   overdose with hepatic failure, and anuric renal failure possibly ATN
   from NSAID +/- tylenol. Liver function is improving on NAC. Will
   continue NAC per liver recommendations. Renal dysfunction continues
   despite fluid challenges.
   Liver and renal teams will continue to follow her. She has developed
   increasing oxygen requirements today, currently on 4 L with sats 94%.
   CXR with pulmonary edema. She will likely need dialysis. Will give
   trial of lasix.
   Will monitor for withdrawal and use benzos by ciwa scale.
   ICU Care
   Nutrition: advance as tolerated, no limitations.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2200-8-19**] 01:40 AM
   Prophylaxis:
   DVT: Boots; start
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :pt is critically ill
   Total time spent: 30 minutes

2200-08-21 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Name14 (STitle) 7850**] is a 43 year-old woman with a history of
   alcohol abuse, IVDU, and hepatitis C who presented to Southern [**Hospital 254**]
   Medical Center on [**2200-8-18**] with malaise, nausea, vomiting, and abdominal
   pain, was found to be in acute liver and kidney failure in the setting
   of likely APAP toxicity, and was transferred for further management.
   24 Hour Events:
 CALLED OUT
   [**8-20**]:
   - Pt developed increasing respiratory distress (O2 requirement 2L ->
   4L).
   - Gave Lasix 120 mg IV and Diuril 500 mg to no avail
   - Renal to dialyze in am
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2200-8-20**] 10:45 AM
   Furosemide (Lasix) - [**2200-8-20**] 05:10 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-21**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-21**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 77 (71 - 87) bpm
   BP: 160/92(109) {137/73(90) - 168/105(118)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,980 mL
                                                                    230 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,610 mL
                                                                    170 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    441 mL
                                                                    185 mL
   Urine:
                                                                    391 mL
                                                                    185 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,539 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///14/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.8 g/dL
   84 mg/dL
   7.7 mg/dL
   14 mEq/L
   4.1 mEq/L
   55 mg/dL
   97 mEq/L
   137 mEq/L
   29.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2200-8-19**]  01:02 AM
                             [**2200-8-19**]  01:18 AM
                             [**2200-8-19**]  05:02 AM
                             [**2200-8-19**]  12:18 PM
                             [**2200-8-19**]  05:29 PM
                             [**2200-8-20**]  12:47 AM
                             [**2200-8-20**]  02:56 AM
                             [**2200-8-20**]  04:51 PM
                             [**2200-8-21**]  04:14 AM
   WBC
   6.8
   6.9
   4.3
   4.0
   3.3
   4.0
   4.7
   5.3
   Hct
   35.6
   35.0
   31.3
   29.5
   25.6
   30.2
   26.3
   29.4
   Plt
   152
   167
   154
   145
   137
   130
   151
   Cr
   4.2
   4.2
   4.9
   5.3
   4.6
   5.8
   6.9
   7.7
   TCO2
   23
   Glucose
   137
   86
   85
   98
   105
   131
   95
   84
   Other labs: PT / PTT / INR:16.9/36.7/1.5, CK / CKMB / Troponin-T:120//,
   ALT / AST:1280/928, Alk Phos / T Bili:212/4.1, Amylase / Lipase:/97,
   Differential-Neuts:93.7 %, Lymph:5.4 %, Mono:0.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:3.8 g/dL, LDH:429 IU/L, Ca++:8.8 mg/dL,
   Mg++:3.0 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **] NEG
   Imaging: cxr [**8-20**]:REASON FOR EXAMINATION: Liver failure in a patient
   with atenolol and Tylenol
   abuse, shortness of breath.
   Portable AP chest radiograph was compared to [**2200-8-19**].
   There is short interval development of vascular engorgement, azygos
   vein
   distention, bilateral perihilar interstitial opacities mostly prominent
   in the
   perihilar and lower lobe areas, finding consistent with interval
   development
   of interstitial pulmonary edema. Findings were discussed with Dr. [**First Name4 (NamePattern1) 1402**]
   [**Last Name (NamePattern1) 7272**] over the phone by Dr. [**Last Name (STitle) 7885**] at the time of dictation.
   Microbiology: HBsAg     HBsAb     HBcAb     HAV Ab
   NEGATIVE POSITIVE POSITIVE POSITIVE
   HCV POS
   HIV NEG
   HCV VIRAL LOAD (Final [**2200-8-20**]):
         61,800 IU/mL.
   [**2200-8-19**] 12:03 pm URINE      Source: Catheter.
      URINE CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
   Assessment and Plan
   Ms. [**Name14 (STitle) 7850**] is a 43 year-old woman with a history of alcohol abuse, IVDU,
   and hepatitis C who presented to Southern [**Hospital 254**] Medical Center on
   [**2200-8-18**] with malaise, nausea, vomiting, and abdominal pain, was found
   to be in acute liver and kidney failure in the setting of likely APAP
   toxicity, and was transferred for further management.
   # Acute hepatitis:  Differential is wide but history most consistent
   with multifactorial etiologies, including heavy APAP use, NSAIDs,
   underlying hepatitis C, and alcohol abuse, which her family states  has
   been more pronounced over the last few weeks.  Abd u/s with fatty
   infiltration, no Budd-Chiari.   Discriminant function of ~90.
   - trend LFTs
   - clarify interpretation of high serum iron and tibc (?hemachromatosis)
   - 21 hour IV acetylcsteine infusion protocol (150 mg/kg loading dose
   over 60 minutes, followed by 50 mg/kg infused over 4 hours, followed by
   100 mg/kg infused over the next 16 hours) followed by a continuous IV
   NAC infusion at 6.25 mg/kg per hour until INR is <2.0
   - no steroids per liver fellow
   # Acute kidney injury:  Seen in approximately 25% of patients with
   acute APAP toxicity with mechanism of injury as ATN.  [**Month (only) 11**] also be
   secondary to hypovolemia in the setting of nausea, vomiting, and
   diarrhea.  Has normal creatinine at baseline.  No hydro.
   - dialysis today given pulm edema
   - renally dose meds
   - renal reccs
   # UTI: GNRs in urine culture, speciation pending.
   - started cipro on [**8-20**] (today is day 2)
   # Abdominal pain:  complaining of diffuse abdominal pain and TTP in RUQ
   secondary to liver inflammation.  Low suspicion for infectious or
   ischemic etiology.
   - serial abdominal exams
   # Alcoholism/polysubstance abuse:  has prior history of withdrawal per
   family.  Was drinking heavily prior to admission.
   - thiamine and folate
   - will use CIWA but minimize benzos
   - social work reccs
   # Hepatitis C:  no prior history of treatment.  Likely contracted
   during prior history of IVDU.
   - management of liver dysfunction as above
   FEN: IVF, replete electrolytes, npo
   Prophylaxis:  pneumoboots
   Access:  peripherals
   Code:  Full (discussed with patient)
   Communication: Patient.  [**Doctor First Name **] is husband [**Telephone/Fax (1) 7852**] (h) [**Telephone/Fax (1) 7853**]
   (w); [**Doctor Last Name 1402**] is daughter [**Telephone/Fax (1) 7854**] (c); Dr. [**Last Name (STitle) 7855**] [**Telephone/Fax (1) 7856**] (p) is
   transferring M.D. at Southern [**Hospital 254**] Medical Center
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-8-19**] 01:40 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2200-08-21 11:43:00 Physician Attending Progress Note
Chief Complaint: liver and kidney failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with HCV, etoh abuse, presents with apap overdose and liver failure
   now improving, and with oliguric ARF, now with fluid overload awaiting
   HD:
   24 Hour Events:
 CALLED OUT
   -called out but then dev'd hypoxia
   -started on abx for uti
   History obtained from Patient
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2200-8-20**] 05:10 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-21**] 02:18 AM
   Other medications:
   thiamine, folate, mvi, sqh, cipro, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria, No(t) Foley
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Signs or concerns for abuse : No
   Pain: [**2-26**] Mild
   Pain location: headache
   Flowsheet Data as of  [**2200-8-21**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 74 (71 - 111) bpm
   BP: 178/97(119) {139/73(90) - 178/105(119)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,980 mL
                                                                    230 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,610 mL
                                                                    170 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    441 mL
                                                                    330 mL
   Urine:
                                                                    391 mL
                                                                    330 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,539 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///14/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Wheezes : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   151 K/uL
   84 mg/dL
   7.7 mg/dL
   14 mEq/L
   4.1 mEq/L
   55 mg/dL
   97 mEq/L
   137 mEq/L
   29.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2200-8-19**]  01:02 AM
                             [**2200-8-19**]  01:18 AM
                             [**2200-8-19**]  05:02 AM
                             [**2200-8-19**]  12:18 PM
                             [**2200-8-19**]  05:29 PM
                             [**2200-8-20**]  12:47 AM
                             [**2200-8-20**]  02:56 AM
                             [**2200-8-20**]  04:51 PM
                             [**2200-8-21**]  04:14 AM
   WBC
   6.8
   6.9
   4.3
   4.0
   3.3
   4.0
   4.7
   5.3
   Hct
   35.6
   35.0
   31.3
   29.5
   25.6
   30.2
   26.3
   29.4
   Plt
   152
   167
   154
   145
   137
   130
   151
   Cr
   4.2
   4.2
   4.9
   5.3
   4.6
   5.8
   6.9
   7.7
   TCO2
   23
   Glucose
   137
   86
   85
   98
   105
   131
   95
   84
   Other labs: PT / PTT / INR:16.9/36.7/1.5, CK / CKMB / Troponin-T:120//,
   ALT / AST:1280/928, Alk Phos / T Bili:212/4.1, Amylase / Lipase:/97,
   Differential-Neuts:93.7 %, Lymph:5.4 %, Mono:0.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:3.8 g/dL, LDH:429 IU/L, Ca++:8.8 mg/dL,
   Mg++:3.0 mg/dL, PO4:3.7 mg/dL
   Imaging: cxr: pulm edema
   Microbiology: urine: e.coli UTI
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   43F with HCV, etoh abuse, presents with apap overdose and liver failure
   now improving, and with oliguric ARF, now with fluid overload awaiting
   HD. HD initiated during rounds and pt tolerating it well. Liver
   function is continuing to improve. Hypoxia is secondary to fluid
   overload. Long-term prognosis of renal function is unclear but time
   will tell.
   Short course of abx for UTI.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2200-8-21**] 08:43 AM
   Dialysis Catheter - [**2200-8-21**] 10:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now ; will reassess after HD
   Total time spent: 35 minutes
   Patient is critically ill

2200-08-22 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2200-8-21**] 10:46 AM
   [**8-20**]:
   - Pt developed increasing respiratory distress (O2 requirement 2L ->
   4L).
   - Gave Lasix 120 mg IV and Diuril 500 mg to no avail
   - Renal to dialyze in am
   [**8-21**]:
   - HD tunneled line placed and started dialysis
   - husband called and was upset that he is not being contact[**Name (NI) **] and that
   his daughter ([**Doctor Last Name **]) is being contact[**Name (NI) **] instead.  spoke to him and gave
   him an update.
   - was c/o but stayed b/c of liver concern for hepatic enceph
   - started lactulose, q2h mental status checks per liver
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-8-22**] 01:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-22**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 80 (69 - 111) bpm
   BP: 163/78(101) {119/78(52) - 178/113(127)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    830 mL
                                                                    300 mL
   PO:
                                                                    660 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    170 mL
   Blood products:
   Total out:
                                                                  4,575 mL
                                                                    115 mL
   Urine:
                                                                    575 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,745 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   General: oriented to person and place, no acute distress
   HEENT: Sclera with conjunctival hemorrhage, periorbital ecchymoses,
   MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bilateral soft wheezes, no rales
   CV: Regular rate and rhythm, normal S1 + S2, [**1-31**] SM, no rubs, gallops
   Abdomen:  soft, distended, +RUQ and LUQ ttp, no rebound tenderness or
   guarding, no organomegaly
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   128 K/uL
   9.2 g/dL
   112 mg/dL
   7.3 mg/dL
   19 mEq/L
   3.7 mEq/L
   47 mg/dL
   101 mEq/L
   139 mEq/L
   27.8 %
   3.6 K/uL
        [image002.jpg]
                             [**2200-8-19**]  01:02 AM
                             [**2200-8-19**]  01:18 AM
                             [**2200-8-19**]  05:02 AM
                             [**2200-8-19**]  12:18 PM
                             [**2200-8-19**]  05:29 PM
                             [**2200-8-20**]  12:47 AM
                             [**2200-8-20**]  02:56 AM
                             [**2200-8-20**]  04:51 PM
                             [**2200-8-21**]  04:14 AM
                             [**2200-8-22**]  04:26 AM
   WBC
   6.8
   6.9
   4.3
   4.0
   3.3
   4.0
   4.7
   5.3
   3.6
   Hct
   35.6
   35.0
   31.3
   29.5
   25.6
   30.2
   26.3
   29.4
   27.8
   Plt
   152
   167
   154
   145
   137
   130
   151
   128
   Cr
   4.2
   4.2
   4.9
   5.3
   4.6
   5.8
   6.9
   7.7
   7.3
   TCO2
   23
   Glucose
   137
   86
   85
   98
   105
   131
   95
   84
   112
   Other labs: PT / PTT / INR:16.2/36.9/1.4, CK / CKMB / Troponin-T:120//,
   ALT / AST:1280/928, Alk Phos / T Bili:212/4.1, Amylase / Lipase:/97,
   Differential-Neuts:93.7 %, Lymph:5.4 %, Mono:0.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:3.8 g/dL, LDH:429 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Urine
                             ESCHERICHIA COLI
                             |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 I
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN----------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   Ms. [**Name14 (STitle) 7850**] is a 43 year-old woman with a history of alcohol abuse, IVDU,
   and hepatitis C who presented to Southern [**Hospital 254**] Medical Center on
   [**2200-8-18**] with malaise, nausea, vomiting, and abdominal pain, was found
   to be in acute liver and kidney failure in the setting of likely APAP
   toxicity, and was transferred for further management.
   # Acute hepatitis:  [**1-27**] heavy APAP use, NSAIDs, underlying hepatitis C,
   and alcohol abuse.  Abd u/s with fatty infiltration, no Budd-Chiari.
   - trend LFTs
   - clarify interpretation of high serum iron and tibc (?hemachromatosis)
   - no steroids per liver fellow
   # Anemia: HCT from 35 to 27. Concerning for bleeding
   - guaiacs
   - [**Hospital1 **] HCT, t/s+c, HCT>21 or >30 if active bleed.
   # Acute kidney injury: Likley HRS.
   - dialysis today given pulm edema
   - ? role of midodrine octreotide in setting of dialysis.
   - renaly dose meds
   - renal reccs
   # UTI: E Coli.
   - started cipro on [**8-20**] (today is day 3)
   # Abdominal pain:  complaining of diffuse abdominal pain and TTP in RUQ
   secondary to liver inflammation.  Low suspicion for infectious or
   ischemic etiology.
   - serial abdominal exams
   # Alcoholism/polysubstance abuse:  has prior history of withdrawal per
   family.  Was drinking heavily prior to admission.
   - thiamine and folate
   - will use CIWA but minimize benzos
   - social work reccs
   # Hepatitis C:  no prior history of treatment.  Likely contracted
   during prior history of IVDU.
   - management of liver dysfunction as above
   FEN: IVF, replete electrolytes, npo
   Prophylaxis:  pneumoboots
   Access:  peripherals
   Code:  Full (discussed with patient)
   Communication: Patient.  [**Doctor First Name **] is husband [**Telephone/Fax (1) 7852**] (h) [**Telephone/Fax (1) 7853**]
   (w); [**Doctor Last Name 1402**] is daughter [**Telephone/Fax (1) 7854**] (c); Dr. [**Last Name (STitle) 7855**] [**Telephone/Fax (1) 7856**] (p) is
   transferring M.D. at Southern [**Hospital 254**] Medical Center
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-8-21**] 08:43 AM
   Dialysis Catheter - [**2200-8-21**] 10:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-08-22 12:23:00 Physician Attending Progress Note
Chief Complaint: liver and kidney failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with etoh and hcv, presented with apap overdose and arf, now with
   improved liver function, now on HD:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2200-8-21**] 10:46 AM
   -started HD yesterday, 4L removed
   -some concern for late apap encophalopathy, started on lactulose
   -mental status no changes, improved!
   -headache resolved
                                            History obtained from Patient
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-8-22**] 01:58 AM
   Other medications:
   thiamine, fa, lactulose, mvi, sqh, cipro, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Pain location: headache resolved
   Flowsheet Data as of  [**2200-8-22**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 82 (69 - 102) bpm
   BP: 159/89(107) {119/78(52) - 175/116(127)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    830 mL
                                                                    420 mL
   PO:
                                                                    660 mL
                                                                    420 mL
   TF:
   IVF:
                                                                    170 mL
   Blood products:
   Total out:
                                                                  4,575 mL
                                                                    200 mL
   Urine:
                                                                    575 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,745 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : minimal)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed,
   no asterixis
   Labs / Radiology
   9.2 g/dL
   128 K/uL
   112 mg/dL
   7.3 mg/dL
   19 mEq/L
   3.7 mEq/L
   47 mg/dL
   101 mEq/L
   139 mEq/L
   27.8 %
   3.6 K/uL
        [image002.jpg]
                             [**2200-8-19**]  01:02 AM
                             [**2200-8-19**]  01:18 AM
                             [**2200-8-19**]  05:02 AM
                             [**2200-8-19**]  12:18 PM
                             [**2200-8-19**]  05:29 PM
                             [**2200-8-20**]  12:47 AM
                             [**2200-8-20**]  02:56 AM
                             [**2200-8-20**]  04:51 PM
                             [**2200-8-21**]  04:14 AM
                             [**2200-8-22**]  04:26 AM
   WBC
   6.8
   6.9
   4.3
   4.0
   3.3
   4.0
   4.7
   5.3
   3.6
   Hct
   35.6
   35.0
   31.3
   29.5
   25.6
   30.2
   26.3
   29.4
   27.8
   Plt
   152
   167
   154
   145
   137
   130
   151
   128
   Cr
   4.2
   4.2
   4.9
   5.3
   4.6
   5.8
   6.9
   7.7
   7.3
   TCO2
   23
   Glucose
   137
   86
   85
   98
   105
   131
   95
   84
   112
   Other labs: PT / PTT / INR:16.2/36.9/1.4, CK / CKMB / Troponin-T:120//,
   ALT / AST:1280/928, Alk Phos / T Bili:212/4.1, Amylase / Lipase:/97,
   Differential-Neuts:93.7 %, Lymph:5.4 %, Mono:0.7 %, Eos:0.1 %, Lactic
   Acid:2.5 mmol/L, Albumin:3.8 g/dL, LDH:429 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Imaging: cxr: improving bibasilar opacities
   Microbiology: e coli uti
   Assessment and Plan
 PULMONARY EDEMA
 URINARY TRACT INFECTION (UTI)
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   43F with etoh abuse and hcv, presented with apap overdose and arf, now
   with improved liver function and started on HD.  Yesterday asterixis
   was noted with some subtle changes in mental status. Lactulose was
   started and today her mental status is improved. Also, resolution of
   the headache is reassuring. Will wait for reassessment of mental status
   this afternoon by primary team and liver team before making dispo
   decision.
   Pt started on HD yesterday for worsening hypoxia. She tolerated it
   well, although cxr suggest persistent fluid overload, and she will have
   another HD session. Will monitor UOP and re-evaluate need for HD daily.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-8-21**] 08:43 AM
   Dialysis Catheter - [**2200-8-21**] 10:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : Transfer to floor after liver team evaluation
   Total time spent: 35 minutes